* Extracted by KLayout with SG13G2 LVS runset on : 20/08/2026 17:41

.SUBCKT driver_dut vdd|vss inp inn mgate em outp outn nlp1 nlp2
R$1 outn nlp2 vdd|vss rsil w=0.5u l=2.35u ps=0u b=0 m=1
Q$2 outn inn em vdd|vss npn13G2 we=70n le=900n Nx=2 m=1
R$3 outp nlp1 vdd|vss rsil w=0.5u l=2.35u ps=0u b=0 m=1
Q$4 outp inp em vdd|vss npn13G2 we=70n le=900n Nx=2 m=1
D$5 vdd|vss vdd|vss vdd|vss diodevdd_2kv m=2
L$7 vdd|vss nlp2 vdd|vss inductor w=4u s=2.1u d=40u nr_r=1
L$8 vdd|vss nlp1 vdd|vss inductor w=4u s=2.1u d=40u nr_r=1
M$9 mgate mgate vdd|vss vdd|vss sg13_lv_nmos L=1u W=392u AS=133.28p AD=133.28p
+ PS=811.2u PD=811.2u rfmode=0
M$49 em mgate vdd|vss vdd|vss sg13_lv_nmos L=1u W=783.68u AS=266.4512p
+ AD=266.4512p PS=1621.08u PD=1621.08u rfmode=0
.ENDS driver_dut
